US04497813
55 g of benzylamine and 1.25 g of concentrated sulphuric acid are added to a solution of 104.5 g of 5-(2-oxopropoxy)salicylamide in 1000 ml of methanol and hydrogenated in the presence of 3.0 g of Pt/C-catalyst at room temperature and atmospheric pressure until 1 equivalent of hydrogen has been absorbed. The catalyst is filtered off, approximately 10 g of powdered calcium carbonate are stirred into the solution and the solution is filtered again and concentrated by evaporation. The oil remaining crystallises from isopropanol. Repeated recrystallisation from isopropanol yields 5-[2-(benzylamino)propoxy]salicylamide having a melting point of 102°-104°.

reactant | benzylamine | 55 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sulphuric acid | 1.25 g | S(O)(O)(=O)=O | H2O4S
reactant | 5-(2-oxopropoxy)salicylamide | 104.5 g | O=C(COC1=CC=C(C(C(=O)N)=C1)O)C | C10H11NO4
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | methanol | 1000 ml | CO | CH4O
catalyst | Pt/C | 3.0 g | [Pt] | Pt
product | 5-[2-(benzylamino)propoxy]salicylamide | C(C1=CC=CC=C1)NC(COC1=CC=C(C(C(=O)N)=C1)O)C | C17H20N2O3
